US06207686B1
To a solution of (2-benzyloxyphenyl)acetic acid (36 g) in dimethylformamide (360 ml) were added potassium carbonate (61.2 g) and methyl iodide (31.6 g) successively. After being stirred for 17 hours, the mixture was filtered and the filtrate was poured into aqueous 1N hydrochloric acid solution (1.8 l). The separated oil was extracted with diethyl ether and the organic layer was washed with brine, dried and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel [eluting with ethyl acetate - n-hexane (1:1)] to afford methyl (2-benzyloxyphenyl)acetate (23 g).

reactant | (2-benzyloxyphenyl)acetic acid | 36 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)O | C15H14O3
reactant | potassium carbonate | 61.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 31.6 g | CI | CH3I
solvent | dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
product | methyl (2-benzyloxyphenyl)acetate | 23 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OC | C16H16O3
